US03957989
2,7-BIS(2-DIETHYLAMINOACETYL)XANTHEN-9-ONE
To a mixture of 2,7-bis(2-bromoacetyl)xanthen-9-one in tetrahydrofuran is added diethylamine, each cooled to -20°C. The reaction mixture is maintained at -20°C. for 24 hours then allowed to warm slowly to room temperature and then maintained at room temperature for 5 days. The mixture is filtered, and the filtrate evaporated to dryness. The resulting residue is dissolved in dilute HCl, filtered and the filtrate is made alkaline, keeping the temperature of the mixture around 0°C. The mixture is extracted with methylene chloride, and the extract acidified to Congo Red. The resulting solid is filtered off and recrystallized from methanol-diethylether to give the desired product.

reactant | 2,7-bis(2-bromoacetyl)xanthen-9-one | BrCC(=O)C1=CC=2C(C3=CC(=CC=C3OC2C=C1)C(CBr)=O)=O | C17H10Br2O4
reactant | diethylamine | C(C)NCC | C4H11N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,7-BIS(2-DIETHYLAMINOACETYL)XANTHEN-9-ONE | C(C)N(CC(=O)C1=CC=2C(C3=CC(=CC=C3OC2C=C1)C(CN(CC)CC)=O)=O)CC | C25H30N2O4
